US09402841B2
Step B: 3-(1-(3-aminopyrrolidin-1-yl)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To a crude reaction mixture containing tert-butyl (1-(3-cyanoisoquinolin-1-yl)pyrrolidin-3-yl)carbamate (786 mg) was added ethyl hydrazinecarboxylate (242 mg, 2.323 mmol) in NMP (5 mL). The resulting suspension was heated at 175° C. overnight and was subsequently cooled, diluted with MeOH, and filtered. The crude product was purified using mass-triggered HPLC eluting with a gradient of 20-45% ACN in water (acid mode). The product-containing fractions were concentrated to give the title compound (117 mg, 17.0% over 2 steps). ESI-MS m/z [M+H]+ 297.5.

reactant | tert-butyl (1-(3-cyanoisoquinolin-1-yl)pyrrolidin-3-yl)carbamate | 786 mg | C(#N)C=1N=C(C2=CC=CC=C2C1)N1CC(CC1)NC(OC(C)(C)C)=O | C19H22N4O2
reactant | ethyl hydrazinecarboxylate | 2.323 mmol, 242 mg | N(N)C(=O)OCC | C3H8N2O2
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 3-(1-(3-aminopyrrolidin-1-yl)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 117 mg, 17.0% | NC1CN(CC1)C1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C15H16N6O
